US09403839B2
To an oven-dried flask under argon gas was added copper iodide (1.28 g, 6.73 mmol) followed by anhydrous THF (125 mL). The suspension was cooled to −78° C. prior to the dropwise addition of (4-fluorophenyl)magnesium bromide (33.7 mL of 2 M in diethyl ether, 67.3 mmol). The resulting mixture was stirred at −78° C. for 20 minutes. HMPA (23.4 mL, 135 mmol) was added, and the reaction mixture was allowed to further stir at −78° C. for 30 minutes. In a separate flask, TMSCl (17.1 mL, 135 mmol) was slowly added to a solution of tert-butyl 8-oxo-11-oxa-3-azaspiro[5.5]undec-9-ene-3-carboxylate (3.00 g, 11.2 mmol) in THF (10 mL). This solution was then slowly transferred to the reaction mixture at −78° C. The resulting thick opaque white mixture was then allowed to slowly warm to room temperature and stirred overnight. To the obtained grey reaction mixture was added a saturated ammonium chloride (75 mL). The mixture was allowed to stir at room temperature for 5 minutes, and volatiles were removed under reduced pressure. To the remaining ⅓ volume was mixed with ethyl acetate (100 mL) and water (25 mL). The aqueous layer was further extracted with ethyl acetate (2×50 mL). Organic layers were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure. The obtained yellow oil was purified by column chromatography (20-40% ethyl acetate/hexane) to provide tert-butyl 10-(4-fluorophenyl)-8-oxo-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate (3.81 g). 1H NMR (400 MHz, CDCl3) δ 7.41-7.33 (m, 2H), 7.11-7.03 (m, 2H), 4.83 (dd, J=11.2, 3.1 Hz, 1H), 3.87-3.72 (m, 2H), 3.32 (ddd, J=13.4, 11.5, 3.3 Hz, 1H), 3.09-2.98 (m, 1H), 2.61 (ddd, J=14.0, 3.1, 1.7 Hz, 1H), 2.57-2.47 (m, 2H), 2.39 (dd, J=13.9, 1.8 Hz, 1H), 2.02-1.95 (m, 1H), 1.85 (ddd, J=13.4, 5.8, 3.2 Hz, 1H), 1.68 (ddd, J=13.4, 11.5, 4.8 Hz, 1H), 1.54-1.47 (m, 1H), 1.45 (d, J=6.0 Hz, 9H). ESI-MS m/z calc. 363.18, found 364.0 (M+1)+; Retention time: 1.81 minutes (3 minute run).

reactant | (4-fluorophenyl)magnesium bromide | 67.3 mmol, 2 M, 33.7 mL | FC1=CC=C(C=C1)[Mg]Br
reactant | HMPA | 135 mmol, 23.4 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | TMSCl | 135 mmol, 17.1 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | tert-butyl 8-oxo-11-oxa-3-azaspiro[5.5]undec-9-ene-3-carboxylate | 11.2 mmol, 3.00 g | O=C1CC2(CCN(CC2)C(=O)OC(C)(C)C)OC=C1 | C14H21NO4
reactant | ammonium chloride | 75 mL | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 6.73 mmol, 1.28 g | [Cu](I)I
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | tert-butyl 10-(4-fluorophenyl)-8-oxo-11-oxa-3-azaspiro[5.5]undecane-3-carboxylate | 3.81 g | FC1=CC=C(C=C1)C1CC(CC2(CCN(CC2)C(=O)OC(C)(C)C)O1)=O | C20H26FNO4
